US04620003
The treated catalyst (I) (containing 0.3 g of metallic nickel) and 4.0 g of a 80% aqueous hydrazine hydrate solution were added dropwise to 300 g of an aqueous solution containing 23.0 g of 6-trifluoromethyl-2-quinoxalinol-4-oxide and 8 g of sodium hydroxide at 40° to 50° C., and the reaction was carried out at 40° to 80° C. for 5 hr. After the catalyst was removed by filtration, the filtrate was acidified to give 20.1 g (yield 94%) of 6-trifluoromethyl-2-quinoxalinol with melting point of 260° C.

reactant | hydrazine hydrate | O.NN
reactant | 6-trifluoromethyl-2-quinoxalinol-4-oxide | 23.0 g | FC(C=1C=C2[N+](=CC(=NC2=CC1)O)[O-])(F)F | C9H5F3N2O2
reactant | sodium hydroxide | 8 g | [OH-].[Na+]
product | 6-trifluoromethyl-2-quinoxalinol | 20.1 g, yield 94% | FC(C=1C=C2N=CC(=NC2=CC1)O)(F)F | C9H5F3N2O
